US07919506B2
Step B: Preparation of (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclopentyl-methanone
To a solution of (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclopentyl-methanol (44,5 mg, 0.077 mmol) in methylene chloride (1.0 mL) at room temperature was added Dess-Martin periodinane reagent (35.7 mg, 0.084 mmol). The mixture was stirred at room temperature for 1.5 hours. Ether and 1N sodium hydroxide was added. The mixture was extracted with ethyl acetate. Combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to yield a pale yellow oil (41.6 mg, 94%). 1H NMR (400 MHz, CDCl3) δ ppm 1.58-1.72 (m, 4H) 1.75-1.88 (m, 4H) 3.48-3.58 (m, 1H) 4.18 (s, 3H) 4.81 (s, 2H) 4.88 (s, 2H) 7.53 (s, 1H) 7.57 (d, J=8.30 Hz, 1H) 7.66 (s, 2H) 7.71 (d, 1H) 7.73 (s, 1H). MS (ES+) Calc: 579.2, Found: 580.4 (M+1).

reactant | (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclopentyl-methanol | 0.077 mmol, 44,5 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(O)C2CCCC2)C=C(C1)C(F)(F)F)(F)F | C25H24F9N5O
reactant | Dess-Martin periodinane | 0.084 mmol, 35.7 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Ether | CCOCC | C4H10O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-phenyl)-cyclopentyl-methanone | 41.6 mg, 94% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(=O)C2CCCC2)C=C(C1)C(F)(F)F)(F)F | C25H22F9N5O
